US09399647B2
A mixture of acetic acid 4-chloro-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethyl ester (3.5 g, 0.011 mol), cyclopropylmethylamine hydrochloride (2.5 g, 0.023 mol) and triethylamine (4.6 g, 0.046 mol) in acetonitrile (15 ml) was stirred at room temperature for 12 h. The solvent was removed by distillation, and the residue was diluted with water and extracted with ethyl acetate (3×25 ml). The combined organic layers were dried over anhydrous sodium sulphate, concentrated to give acetic acid 4-(cyclopropyl-methyl-amino)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethyl ester (3.5 g, 89%) as brown solid. 1H NMR (400 MHz, CDCl3): δ 0.43-0.47 (m, 2H), 0.69-0.77 (m, 2H), 1.71-1.77 (m, 2H), 1.87-1.93 (m, 2H), 2.18 (s, 3H), 2.82-2.92 (m, 5H), 3.03 (s, 3H), 5.19 (s, 2H); LC-MS: [M+H]=331.8 m/z.

reactant | acetic acid 4-chloro-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethyl ester | 0.011 mol, 3.5 g | ClC=1C2=C(N=C(N1)COC(C)=O)SC1=C2CCCC1 | C13H13ClN2O2S
reactant | cyclopropylmethylamine hydrochloride | 0.023 mol, 2.5 g | Cl.C1(CC1)CN
reactant | triethylamine | 0.046 mol, 4.6 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | acetic acid 4-(cyclopropyl-methyl-amino)-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethyl ester | 3.5 g, 89% | C1(CC1)N(C=1C2=C(N=C(N1)COC(C)=O)SC1=C2CCCC1)C | C17H21N3O2S
